US04810713
N-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]phenyl]acetamide hydrochloride hydrate [1:1:1]
A mixture of 3.0 g (0.01 mole) of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol, 2.3 g (0.01 mole) of N-[4-(3-chloropropoxy)phenyl]acetamide, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 ml of 1-butanol gave a gum as residue. The gum was purified by column chromatography on 80 g of Florisil® and the product was eluted with 20% acetone in benzene. The combined fractions containing product were concentrated under reduced pressure to give a glass as residue. The glass was dissolved in ethyl ether, filtered through cotton, and the filtrate treated with ethereal hydrogen chloride. The resulting solid was collected by filtration, washed with ethyl ether and dried to yield 2.1 g (38%) of white solid, m.p. 135°-170° C. (with decomposition).

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | N-[4-(3-chloropropoxy)phenyl]acetamide | 0.01 mole, 2.3 g | ClCCCOC1=CC=C(C=C1)NC(C)=O | C11H14ClNO2
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]phenyl]acetamide hydrochloride hydrate | 2.1 g, 38% | O.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)NC(C)=O)(O)C1=CC=C(C=C1)F | InChI=1S/C29H32F2N2O3.ClH.H2O/c1-21(34)32-27-11-13-28(14-12-27)36-20-2-17-33-18-15-24(16-19-33)29(35,22-3-7-25(30)8-4-22)23-5-9-26(31)10-6-23;;/h3-14,24,35H,2,15-20H2,1H3,(H,32,34);1H;1H2
